US03966744
Sodium seconal (2 g) was dissolved in a small volume of water and mixed with a conc. aqueous solution of CaCl2. The white precipitate which separated out was filtered, washed with water, then with ether and air dried on the filter funnel. A white powder (2.3 g) assumed to be the Ca salt of seconal was collected. This was dissolved in methanol (50 ml) and, after addition of 1.1 g of sodium chloroacetate and 2 ml DMF, was refluxed for 6 hours, and then allowed to stir at room temperature overnight. After evaporation of the solvent, the residue was treated with water (30 ml) and acidified with conc. HCl. The mixture was extracted with chloroform (3 × 30 ml) and the organic layer evaporated to dryness. The residue was stirred with 30 ml of 10% NaHCO3 solution and then extracted with chloroform. The chloroform extract, on evaporation, yielded 0.82 g of unreacted seconal. The bicarbonate layer was acidified and extracted with chloroform. The organic layer upon evaporation yielded 0.86 g of a gummy material which had an NMR spectrum consistent with the expected acid. This acid was redissolved in 10% NaHCO3 and the above procedure of acidification and chloroform extraction was repeated, leading to a yield of 0.62 g of a colorless gum which slowly crystallized on standing. This material was analytically pure.

reactant | Sodium seconal | 2 g | CCCC(C)C1(C(=O)NC(=O)[N-]C1=O)CC=C.[Na+]
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | water | O | H2O
product | seconal | 0.82 g | CCCC(C)C1(C(=O)NC(=O)NC1=O)CC=C | C12H18N2O3
